US05298649
1-methoxymethoxy-8-(3-methoxypropyl)naphthalene
5.1 g of 8-(3-hydroxypropyl)-1-methoxymethoxy naphthalene was dissolved in 40 ml of N,N-dimethyl formamide, to which 1.4 g of 55% sodium hydride was added under ice cooling. Then, 1.93 ml of methyl iodide was added and stirred at a room temperature for 2 hours. After adding water to the reaction solution and extracting with ethyl acetate, the organic layer was washed with water and then with a saturated aqueous solution of sodium chloride successively and then dried over magnesium sulfate. After distilling off the solvent, when it was purified on silica gel column chromatography (10% ethyl acetate-hexane), 5.3 g of the above-captioned compound was obtained as a colorless oily product.

reactant | 8-(3-hydroxypropyl)-1-methoxymethoxy naphthalene | 5.1 g | OCCCC=1C=CC=C2C=CC=C(C12)OCOC | C15H18O3
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | methyl iodide | 1.93 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-methoxymethoxy-8-(3-methoxypropyl)naphthalene | 5.3 g | COCOC1=CC=CC2=CC=CC(=C12)CCCOC | C16H20O3
